US07863220B2
Preparation of ethyl 6-amino-5-chloro-2-(4-chlorophenyl)-4-pyrimidinecarboxylate (Compound 64)
To a solution of 6-amino-5-chloro-2-(4-chlorophenyl)-4-pyrimidinecarboxylic acid (i.e. the product of Example 4, Step C) (20.0 g, 70.4 mmol) in ethanol (70 mL) was added thionyl chloride (5.14 mL, 70.4 mmol) while maintaining the temperature below 15° C. using an ice bath. The reaction mixture was then heated at reflux overnight. Water was added. Then with external cooling aqueous sodium hydroxide (50%) was added to adjust the pH to 7. The resulting solid was isolated by filtration and dried to afford the title product, a compound of the present invention, as a light beige solid (20.1 g).

reactant | 6-amino-5-chloro-2-(4-chlorophenyl)-4-pyrimidinecarboxylic acid | NC1=C(C(=NC(=N1)C1=CC=C(C=C1)Cl)C(=O)O)Cl | C11H7Cl2N3O2
reactant | thionyl chloride | 70.4 mmol, 5.14 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 70 mL | C(C)O | C2H6O
product | ethyl 6-amino-5-chloro-2-(4-chlorophenyl)-4-pyrimidinecarboxylate | NC1=C(C(=NC(=N1)C1=CC=C(C=C1)Cl)C(=O)OCC)Cl | C13H11Cl2N3O2
